US07300907B2
1-Fluoro-2,3-methylenedioxybenzene (5.0 g, 35.7 mmol) was dissolved in THF (70 mL) and the solution was cooled to −65° C. in a dry ice acetone bath. n-Butyl lithium (2.5 g, 15.7 mL, 39.3 mmol) was added to the solution via syringe with stirring. The reaction was allowed to warm to −35° C. over 1 hour, then cooled to −65° C. and treated with trimethylborate (4.1 g, 39.3 mmol) via syringe. The reaction was allowed to warm slowly to room temperature, quenched with 1N HCl (50 mL), stirred for 15 minutes, and then extracted with ether. The organic phase was then extracted with 1N sodium hydroxide and this aqueous extract was then acidified with 1N hydrochloric acid. The acidic aqueous solution was then extracted with two portions of ether and these combined ether extracts were dried and concentrated to an oily solid that was triturated with methylene chloride. The resulting solid was collected by filtration, washed with methylene chloride, and dried to give 1-fluoro-2,3-methylenedioxyphenylboronic acid (1.4 g, 7.6 mmol) as a tan solid: 1H NMR (DMSO-d6): δ 8.05 (br s, 2H), 7.08 (dd, 1H, J=7.8, 5.1 Hz), 6.76 (d, 1H, J=7.8 Hz), 6.08 (s, 2H).

reactant | 1-Fluoro-2,3-methylenedioxybenzene | 35.7 mmol, 5.0 g | FC1=C2C(=CC=C1)OCO2 | C7H5FO2
reactant | n-Butyl lithium | 39.3 mmol, 15.7 mL, 2.5 g | C(CCC)[Li]
reactant | trimethylborate | 39.3 mmol, 4.1 g | COB(OC)OC | C3H9BO3
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 1-fluoro-2,3-methylenedioxyphenylboronic acid | 7.6 mmol, 1.4 g | FC1(C2C(=CC=C1)OCO2)B(O)O | C7H8BFO4
